US06251921B1
Preparation of 6-Hydroxy-3-[3-hydroxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (65 mg, 0.12 mmol) in dichloroethane (3 mL) was treated with ethanethiol (0.2 mL) and aluminum chloride (160 mg) at 0° C. for 2 h before quenching with saturated aqueous sodium bicarbonate solution (5 mL). The stirring was continued for 1 h at ambient temperature. The mixture was diluted with saturated aqueous sodium bicarbonate solution (50 mL) and extracted with dichloromethane (50 mL×3). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the title compound as a white foam (60 mg, 95%).

reactant | 6-Hydroxy-3-[3-methoxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 0.12 mmol, 65 mg | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)OC)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C33H38N2O3S
reactant | ethanethiol | 0.2 mL | C(C)S | C2H6S
reactant | aluminum chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 6-Hydroxy-3-[3-hydroxy-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 60 mg, 95% | OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)O)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C32H36N2O3S
